US05478858
To a solution of 4,7-dimethyl-5-nitrobenzimidazole (1.17 g) in methanol (150 mL) is added Pd/C (10%, 0.16 g) and ammonium formate (1.31 g). The mixture is stirred at room temperature overnight, then filtered on Celite, with methanol wash of the solids. The filtrate is rotary evaporated and the residue partitioned between water and ethyl acetate. The organic layer is washed with saturated ammonium chloride, dried over magnesium sulfate, filtered and rotary evaporated to afford 5-amino-4,7-dimethylbenzimidazole as a foamy reddish solid.

reactant | 4,7-dimethyl-5-nitrobenzimidazole | 1.17 g | CC1=C(C=C(C=2N=CNC21)C)[N+](=O)[O-] | C9H9N3O2
reactant | ammonium formate | 1.31 g | C(=O)[O-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 0.16 g | [Pd] | Pd
product | 5-amino-4,7-dimethylbenzimidazole | NC1=C(C2=C(N=CN2)C(=C1)C)C | C9H11N3
